### PR TITLE
[Merged by Bors] - feat: Émile Borel's classic "Growth Lemma"

### PR DESCRIPTION
**Pull request by kebekus**
Establish Émile Borel's classic **Growth Lemma**: if `S : ℝ → ℝ` is monotone on `Set.Ici a` and satisfies `1 ≤ S` there, then

`∀ᶠ r in volume.cofinite ⊓ atTop, S (r + (S r)⁻¹) ≤ 2 * S r`.

In other words: The inequality `S (r + (S r)⁻¹) ≤ 2 * S r` holds for all sufficiently large `r` outside an exceptional set `E` of finite Lebesgue measure. In Value Distribution Theory, this statement is central to the proof of the "Lemma on the Logarithmic Derivatives".

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), formalizing Value Distribution Theory for meromorphic functions on the complex plane. Claude Code was used to create this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/BorelGrowth.lean [hunk 1]
```diff
@@ -0,0 +1,128 @@
+/-
+Copyright (c) 2026 Stefan Kebekus. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Stefan Kebekus using Claude Code
+-/
+module
+
+public import Mathlib.Analysis.SpecificLimits.Basic
+public import Mathlib.MeasureTheory.Measure.Lebesgue.Basic
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/BorelGrowth.lean]:
```suggestion
public import Mathlib.MeasureTheory.Measure.Haar.OfBasis

import Mathlib.MeasureTheory.Measure.Lebesgue.Basic
```

File: Mathlib/MeasureTheory/Function/BorelGrowth.lean [hunk 2]
```diff
@@ -0,0 +1,128 @@
...
+most `2⁻ⁿ`, so that `volume E` is bounded by `∑ 2⁻ⁿ = 2 < ∞`.
+
+## References
+
+- Lemma 2.4 in [Hayman, *Meromorphic functions*][MR164038].
+
+- Lemma 3.7 in Section VI.3 of [Lang, *Introduction to Complex Hyperbolic Spaces*][MR886677]
+-/
+
+@[expose] public section
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/BorelGrowth.lean]:
```suggestion
public section
```

File: Mathlib/MeasureTheory/Function/BorelGrowth.lean [hunk 3]
```diff
@@ -0,0 +1,128 @@
...
+      exact ⟨n, ((div_lt_iff₀ hSa).1 hn).trans_le
+        (mul_le_mul_of_nonneg_right (pow_le_pow_right₀ one_le_two n.le_succ) hSa.le)⟩
+    refine mem_iUnion.2 ⟨Nat.find h₄, hr, ?_, Nat.find_spec h₄⟩
+    rcases Nat.eq_zero_or_pos (Nat.find h₄) with h₅ | h₅
+    · simpa [h₅] using h₃
+    · have h₆ := Nat.find_min h₄ (Nat.sub_lt h₅ one_pos)
+      rw [show Nat.find h₄ - 1 + 1 = Nat.find h₄ by omega] at h₆
+      exact not_lt.1 h₆
+  -- Two points of a slice are at distance at most `(2 ^ n)⁻¹`
+  have hkey : ∀ n, ∀ x ∈ En n, ∀ y ∈ En n, x ≤ y → y - x ≤ (2 ^ n)⁻¹ := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/BorelGrowth.lean]: You don't need `x ≤ y`
```suggestion
  have hkey : ∀ n, ∀ x ∈ En n, ∀ y ∈ En n, y - x ≤ (2 ^ n)⁻¹ := by
```

**Comment by kebekus** [comment]
@EtienneC30 Thanks!

**Comment by EtienneC30** [comment]
maintainer merge

File: Mathlib/MeasureTheory/Function/BorelGrowth.lean [hunk 4]
```diff
@@ -0,0 +1,129 @@
...
+
+open Filter MeasureTheory Set
+
+/--
+**Borel's Growth Lemma**: if `S : ℝ → ℝ` is monotone on `Set.Ici a` and satisfies `1 ≤ S` there,
+then the inequality `S (r + (S r)⁻¹) ≤ 2 * S r` holds for all sufficiently large `r` outside a set
+of finite Lebesgue measure.
+-/
+theorem MonotoneOn.eventually_le_two_mul {S : ℝ → ℝ} {a : ℝ}
+    (h₁ : MonotoneOn S (Set.Ici a)) (h₂ : ∀ r ∈ Set.Ici a, 1 ≤ S r) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/BorelGrowth.lean]: The assumption h_2 looks too strong: isn't it enough to assume `0 ≤ S a`?

By monotonicity, this implies that S is nonnegative on `[a, \infty)`. If it's always zero, then the result is obviously true. Otherwise, it's positive at some `b`, and then the argument goes through starting from `b`.

Comment (kebekus) [reply Mathlib/MeasureTheory/Function/BorelGrowth.lean]: Thanks for spotting this. Implemented as suggested.

File: Mathlib/MeasureTheory/Function/BorelGrowth.lean [hunk 5]
```diff
@@ -0,0 +1,147 @@
...
+      exact ⟨n, ((div_lt_iff₀ h₂).1 hn).trans_le
+        (mul_le_mul_of_nonneg_right (pow_le_pow_right₀ one_le_two n.le_succ) h₂.le)⟩
+    refine mem_iUnion.2 ⟨Nat.find h₄, hr, ?_, Nat.find_spec h₄⟩
+    rcases Nat.eq_zero_or_pos (Nat.find h₄) with h₅ | h₅
+    · simpa [h₅] using h₃
+    · have h₆ := Nat.find_min h₄ (Nat.sub_lt h₅ one_pos)
+      rw [show Nat.find h₄ - 1 + 1 = Nat.find h₄ by omega] at h₆
+      exact not_lt.1 h₆
+  -- Two points of a slice are at distance at most `(2 ^ n * S a)⁻¹`
+  have hkey : ∀ n, ∀ x ∈ En n, ∀ y ∈ En n, y - x ≤ (2 ^ n * S a)⁻¹ := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/BorelGrowth.lean]: Could you move the variables left of the colon, to avoid the intro step and make things more readable?

File: Mathlib/MeasureTheory/Function/BorelGrowth.lean [hunk 6]
```diff
@@ -0,0 +1,147 @@
...
+      have h₇ : S (x + (S x)⁻¹) ≤ S y := by
+        apply h₁ _ h₁y (not_lt.1 h₆)
+        exact mem_Ici.2 (h₁x.trans (le_add_of_nonneg_right (inv_nonneg.2 (hS_pos x h₁x).le)))
+      have h₈ : (2 : ℝ) ^ (n + 1) * S a = 2 * (2 ^ n * S a) := by ring
+      linarith
+    -- …and `(S x)⁻¹` is at most `(2 ^ n * S a)⁻¹`
+    have h₇ : (S x)⁻¹ ≤ ((2 : ℝ) ^ n * S a)⁻¹ := inv_anti₀ (by positivity) h₃x
+    linarith
+  -- Hence each slice has diameter at most `(2 ^ n * S a)⁻¹`…
+  have hdiam : ∀ n : ℕ, Metric.ediam (En n) ≤ ENNReal.ofReal ((2 ^ n * S a)⁻¹) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/BorelGrowth.lean]: ditto

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/MeasureTheory/Function/BorelGrowth.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/MeasureTheory/Function/BorelGrowth.lean]: Done.

File: Mathlib/MeasureTheory/Function/BorelGrowth.lean (hunk 6 above)
Comment (kebekus) [reply Mathlib/MeasureTheory/Function/BorelGrowth.lean]: Done.

**Comment by kebekus** [comment]
@sgouezel Thanks!

bors r+
